US04256640
(1) 4-(1-Hydroxyethyl)-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole
Methyl magnesium iodide prepared from reaction of magnesium (2.4 g) and methyl iodide (13.9 g) in absolute ether is dissolved in absolute benzene (50 ml) and a solution of 4-formyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole (5.5 g) in absolute benzene (60 ml) is added dropwise thereto during 3 hours. The mixture is stirred at room temperature for 1 hour, poured slowly into an ice water containing ammonium chloride (10 g) and extracted with ether. The extract is evaporated. The oily residue is chromatographed on a column of silica gel and eluted with ether-benzene (1:50). The eluate is evaporated. The residue is again chromatographed on a column of silica gel and eluted with benzene and ether-benzene (1:20). The title compound is obtained from the latter eluate as an oil (4.58 g).

reactant | Methyl magnesium iodide | C[Mg]I
reactant | magnesium | 2.4 g | [Mg] | Mg
reactant | methyl iodide | 13.9 g | CI | CH3I
reactant | 4-formyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 5.5 g | C(=O)C1CCSC=2NC3=CC=CC=C3C21 | C12H11NOS
reactant | ammonium chloride | 10 g | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 4-(1-Hydroxyethyl)-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | OC(C)C1CCSC=2NC3=CC=CC=C3C21 | C13H15NOS
